US07227032B2
To a flask having an inner volume of 25 ml and equipped with a stirring device, a thermometer and a reflux condenser were charged 2.97 g (20 mmol) of 3,3-dimethoxy-2-hydroxyiminopropionitrile with a purity of 96.9% by weight synthesized in the same manner as in Example 1, 3.96 g (21 mmol) of 4-chlorophenylhydrazine hydrochloride with a purity of 95% by weight, 1.4 ml of water, 10 ml of methanol and 1.3 ml (15 mmol) of conc. hydrochloric acid, and the mixture was reacted at 50 to 52° C. for 2 hours. After completion of the reaction, 25 ml of water and 5 ml of methanol were added to the mixture to cool the same up to 10° C., and 2.3 ml (37.9 mmol) of 28% by weight aqueous ammonia was gradually added dropwise to the mixture and the resulting mixture was stirred for 30 minutes while maintaining the liquid temperature to 5° C. or lower. Precipitated crystals were collected by filtration, and then, the crystals were washed with 10 ml of cold water and dried under reduced pressure to obtain 3.73 g of 5-amino-1-(4-chlorophenyl)-4-nitrosopyrazole (Isolation yield: 74.3%) as a yellowish solid with a purity of 88.7% by weight (absolute calibration curve method by high performance liquid chromatography).

reactant | 3,3-dimethoxy-2-hydroxyiminopropionitrile | 20 mmol, 2.97 g | COC(C(C#N)=NO)OC | C5H8N2O3
reactant | 4-chlorophenylhydrazine hydrochloride | 21 mmol, 3.96 g | Cl.ClC1=CC=C(C=C1)NN
reactant | hydrochloric acid | 15 mmol, 1.3 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 1.4 ml | O | H2O
product | 5-amino-1-(4-chlorophenyl)-4-nitrosopyrazole | 3.73 g, yield: 74.3% | NC1=C(C=NN1C1=CC=C(C=C1)Cl)N=O | C9H7ClN4O
